US05635510
33.6 Synthesis of 4-(pyridin-2-yl)-piperidine-4-carboxylic acid amide hydrochloride
Prepare by the method of example 20.10 using 1-tert-butoxycarbonyl-4-(pyridin-2-yl)-piperidine-4-carboxylic acid amide (3 mmol) and HCl in dioxane (40 mmol, 4N) to give the title compound.

reactant | 1-tert-butoxycarbonyl-4-(pyridin-2-yl)-piperidine-4-carboxylic acid amide | 3 mmol | C(C)(C)(C)OC(=O)N1CCC(CC1)(C(=O)N)C1=NC=CC=C1 | C16H23N3O3
reactant | HCl | Cl | ClH
reactant | dioxane | 40 mmol, 4N | O1CCOCC1 | C4H8O2
product | 4-(pyridin-2-yl)-piperidine-4-carboxylic acid amide hydrochloride | Cl.N1=C(C=CC=C1)C1(CCNCC1)C(=O)N | InChI=1S/C11H15N3O.ClH/c12-10(15)11(4-7-13-8-5-11)9-3-1-2-6-14-9;/h1-3,6,13H,4-5,7-8H2,(H2,12,15);1H
